US05116404
52.5 g of ethyl(2-fluorobenzoyl) acetate and 96.3 g of ammonium acetate were added to 250 ml of ethanol, followed by dropwise addition of 75.0 g of acetic acid to the solution with stirring at 10° C. The resulting solution was heated to room temperature and then stirred under reflux for 4 hours. After the reaction was completed, the solvent was distilled away under reduced pressure and the residue was dissolved in diethyl ether. This ether solution was washed with dilute hydrochloric acid, water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled away to obtain 50.5 g of ethyl 3-amino-3-(2-fluorophenyl)-2-propenoate.

reactant | ethyl(2-fluorobenzoyl) acetate | 52.5 g | C(C)(=O)OC(C1=C(C(=CC=C1)CC)F)=O | C11H11FO3
reactant | ammonium acetate | 96.3 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | acetic acid | 75.0 g | C(C)(=O)O | C2H4O2
product | ethyl 3-amino-3-(2-fluorophenyl)-2-propenoate | 50.5 g | NC(=CC(=O)OCC)C1=C(C=CC=C1)F | C11H12FNO2
